US07253286B2
2-Amino-4-(4-nitrophenoxy)pyridine
A mixture of 15.88 g of 2-amino-4-chloropyridine 34.5 g of p-nitrophenol, 52 ml of Hunig's base and 100 ml of 1-methyl-2-pyrrolidinone was stirred at 160° C. for 15 hours. Water was added, extraction was performed with ethyl acetate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (hexane:ethyl acetate=1:1) using NH type silica gel to obtain 3.24 g of the target substance as a light yellow solid.

reactant | 2-amino-4-chloropyridine | 15.88 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | Hunig's base | 52 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 2-Amino-4-(4-nitrophenoxy)pyridine | NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
